US07517873B2
A solution of 2.2 g (0.011 mole) of (rac)-3-(3-methyl-cyclopentylamino)-propanoic acid ethyl ester in 30 mL of water was added dropwise to a solution of 1.94 g (0.01 mole) of 2,4-dichloro-5-nitro-pyrimidine in 30 mL of ethyl ether. At 0 degrees, 2.0 g (0.010 mole) of potassium bicarbonate was added. The mixture was stirred at ambient temperature for 3 hours. The layers were then separated, and the aqueous layer extracted twice with 30 mL of ether. The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with hexanes-ethyl acetate (100:0-92:8) gave 3.3 g of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(3-methyl-cyclopentyl)-amino]-propanoic acid ethyl ester (IV-58)

reactant | (rac)-3-(3-methyl-cyclopentylamino)-propanoic acid ethyl ester | 0.011 mole, 2.2 g | C(C)OC(CCNC1CC(CC1)C)=O | C11H21NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.01 mole, 1.94 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium bicarbonate | 0.010 mole, 2.0 g | C([O-])(O)=O.[K+]
solvent | water | 30 mL | O | H2O
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
product | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-(3-methyl-cyclopentyl)-amino]-propanoic acid ethyl ester | 3.3 g | C(C)OC(CCN(C1CC(CC1)C)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C15H21ClN4O4
